US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine HCl salt (Chemical Formula 4)
(S)-tert-butyl 4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate 463 mg (0.74 mmol) was dissolved in methylene chloride 20 ml, and 4 M HCl (excess) dissolved in 1,4-dioxane 20 ml was added and then charged with nitrogen, followed by stirring at room temperature for 18 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure to remove methylene chloride and dioxane, thereby giving a yellow solid 493 mg (100%).

reactant | (S)-tert-butyl 4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.74 mmol, 463 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C30H37N13O3
reactant | HCl | 4 M | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine HCl salt | 493 mg, 100% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C=2C=NN(C2)C2CCNCC2 | InChI=1S/C25H29N13O.ClH/c1-35-13-19(11-30-35)22-12-27-23-24(32-22)38(34-33-23)16-21-15-36(6-7-39-21)25-28-8-17(9-29-25)18-10-31-37(14-18)20-2-4-26-5-3-20;/h8-14,20-21,26H,2-7,15-16H2,1H3;1H/t21-;/m0./s1
